US07250442B2
1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-methoxy-benzyl)-1,3-dihydro-indol-2-one
Using a method similar to Example 37, with 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one (333 mg, 0.68 mmol), a 0.5M solution of potassium bis(trimethylsilyl)amide (1.38 mL, 0.69 mmol), and (4-methoxybenzyl bromide (0.094 mL, 0.69 mmol) in DMF (8 mL) followed by treatment with TBAF (0.75 mL, 0.75 mmol) gives a crude brown oil. Purify by flash chromatography (gradient of 50% hexanes/CH2Cl2 to CH2Cl2) to give material which still contains a second entity. Chromatograph again (step gradient of 5% EtOAc/hexanes, 20% EtOAc/hexanes, 33% EtOAc/hexanes) to give 215 mg (63%) of the title compound. MS (ES): m/z=498 (M+1), 496 (M−1); 1H NMR(DMSO-d6): δ8.26 (s, 1H), 7.55 (m, 1H), 7.54 (dd, J=0.9 Hz, J=8.0 Hz, 1H), 7.24 (m, 1H), 7.14 (m, 2H), 7.00 (m, 3H), 6.90 (m, 1H), 6.75 (dd, J=2.2 Hz, J=8.0 Hz, 1H), 6.52 (m, 2H), 6.40 (m, 1H), 5.76 (d, J=6.3 Hz, 1H), 4.79 (abq, J=17.2, 2H), 3.59 (q, J=12.9, 2H), 3.46 (s, 3H), 2.15 (s, 6H).

reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.68 mmol, 333 mg | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)=O)C)(C)C | C29H34ClNO2Si
reactant | potassium bis(trimethylsilyl)amide | 0.69 mmol, 1.38 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-methoxybenzyl bromide | 0.69 mmol, 0.094 mL | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | TBAF | 0.75 mmol, 0.75 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-methoxy-benzyl)-1,3-dihydro-indol-2-one | 215 mg, 63% | ClC1=C(CN2C(C(C3=CC=CC=C23)(CC2=CC=C(C=C2)OC)C2=CC(=C(C(=C2)C)O)C)=O)C=CC=C1 | C31H28ClNO3
